US04399126
N,N'-Bis[4-[4-O-(α-D-glucopyranosyl)-β-D-glucopyranosylthio]phenyl]octanediamide
A 28.4 g portion of N,N'-bis[4-[2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranosylthio]phenyl]octanediamide was dissolved in a 0° C. solution of 500 ml of methanol saturated with ammonia. The solution was allowed to stand at 0° C., under an inert atmosphere, for 18 hours, then was warmed to ambient temperature and evaporated. The residue was triturated with 200 ml of absolute ethanol, filtered, washed in sequence with absolute ethanol, acetonitrile, then ether and dried in vacuo at 40° C., giving 12.1 g of the desired intermediate as an amorphous solid.

reactant | N,N'-bis[4-[2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranosylthio]phenyl]octanediamide | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O)SC1=CC=C(C=C1)NC(CCCCCCC(=O)NC1=CC=C(C=C1)S[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O[C@@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)[C@H](O1)COC(C)=O)=O | C72H92N2O36S2
solvent | methanol | 500 ml | CO | CH4O
solvent | ammonia | N | H3N
product | N,N'-Bis[4-[4-O-(α-D-glucopyranosyl)-β-D-glucopyranosylthio]phenyl]octanediamide | 12.1 g | [C@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)O[C@H]1[C@@H]([C@H]([C@@H](O[C@@H]1CO)SC1=CC=C(C=C1)NC(CCCCCCC(=O)NC1=CC=C(C=C1)S[C@H]1[C@H](O)[C@@H](O)[C@H](O[C@@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)[C@H](O1)CO)=O)O)O | C44H64N2O22S2
